US05597848
Methyl 4-[4-[1-Chloro-2-phenylethyl)phenyl]butyrate
To a solution of 3.49 g of methyl 4-[4-(1-hydroxy-2-Phenylethyl)phenyl]butyrate in 17 ml of benzene, 1.10 ml of thionyl chloride was added dropwise under ice-cooling, and then stirring was continued at room temperature for 1.5 hours. The reaction solvent was removed under reduced pressure, and the residue was dissolved in ether. The ether layer was washed with water and dried, and then the solvent was removed under reduced pressure to yield 3.30 g of pale yellow oil.

reactant | methyl 4-[4-(1-hydroxy-2-Phenylethyl)phenyl]butyrate | 3.49 g | OC(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H22O3
reactant | thionyl chloride | 1.10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 17 ml | C1=CC=CC=C1 | C6H6
product | Methyl 4-[4-[1-Chloro-2-phenylethyl)phenyl]butyrate | 3.30 g | ClC(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H21ClO2
